US06927230B2
To a solution of 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide (0.92 g, 3.95 mmol) in 10 mL of dioxane, were added pyridine (0.319 mL, 3.95 mmol) and a solution of 4-methoxybenzoyl chloride (673 mg, 3.95 mmol) in 3 mL of dioxane. The mixture was refluxed with stirring for 12 hours. The solvent was removed under reduced pressure. 50 mL of dichloromethane and 20 mL of 0.1 N hydrochloric acid were added to the residue and the organic layer was separated. The aqueous layer was extracted with 50 mL of dichloromethane. A combined organic layer was washed with 0.1 N hydrochloric acid and brine and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (toluene-ethyl acetate 9:1) and then recrystallized with diisopropyl ether-hexane to give pale brown needle of 1,5-bis(4-methoxyphenyl)-3-(trifluoromethyl)-1H-1,2,4-triazole (0.67 g, 48.6% yield).

reactant | 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide | 3.95 mmol, 0.92 g | FC(C(N)=NNC1=CC=C(C=C1)OC)(F)F | C9H10F3N3O
reactant | pyridine | 3.95 mmol, 0.319 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-methoxybenzoyl chloride | 3.95 mmol, 673 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 1,5-bis(4-methoxyphenyl)-3-(trifluoromethyl)-1H-1,2,4-triazole | 0.67 g, 48.6% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)C(F)(F)F | C17H14F3N3O2
